US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3-[(4-methyl-1-piperazinyl)carbonyl]-1,2,4-oxadiazol-5-yl)hexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (300 mg, 0.76 mmol) in ethanol (4 ml) was treated with 1-methylpiperazine (0.84 ml, 7.60 mmol) and the resulting mixture was heated at 60° C. under a nitrogen atmosphere for 16 hours. The mixture was cooled and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (98:2) gradually changing to dichloromethane methanol (95:5) to afford the title compound (312 mg).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 0.76 mmol, 300 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | 1-methylpiperazine | 7.60 mmol, 0.84 ml | CN1CCNCC1 | C5H12N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-[(4-methyl-1-piperazinyl)carbonyl]-1,2,4-oxadiazol-5-yl)hexanoate | 312 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CCN(CC1)C | C24H40N4O4
